US07348354B2
1-(4-Dimethylamino-4-phenylcyclohexyl)-3-(3-phenylpropyl)urea
4-Dimethylamino-4-phenyl-cyclohexylamine (more polar diastereomer) (218 mg, 1.0 mmole) was added to a solution of (3-phenylpropyl)carbamic acid phenyl ester (255 mg, 1.0 mmole) in dioxane and refluxed for 12 h. Working up was performed by removing the dioxane by distillation and combining the residue with water. The batch was adjusted to pH 11 with 5M NaOH and extracted with ethyl acetate. The organic phase was dried with Na2SO4 and evaporated. The more polar product was obtained as a colorless oil in a yield of 379 mg (100%).

reactant | 4-Dimethylamino-4-phenyl-cyclohexylamine | CN(C1(CCC(CC1)N)C1=CC=CC=C1)C | C14H22N2
reactant | (3-phenylpropyl)carbamic acid phenyl ester | 1.0 mmole, 255 mg | C1(=CC=CC=C1)OC(NCCCC1=CC=CC=C1)=O | C16H17NO2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(4-Dimethylamino-4-phenylcyclohexyl)-3-(3-phenylpropyl)urea | CN(C1(CCC(CC1)NC(=O)NCCCC1=CC=CC=C1)C1=CC=CC=C1)C | C24H33N3O
